US07902356B2
Dissolve 1-(2-Methoxy-4-nitro-phenyl)-4-triisopropylsilanyloxy-piperidine (1.53 g, 3.74 mmol) in THF (30 mL) and add 5% Pd/C then stir the slurry at room temperature under a hydrogen atmosphere for 3 h. Filter the black mixture through a pad of Celite® and concentrate the filtrate in vacuo to give 3-methoxy-4-(4-triisopropylsilanyloxy-piperidin-1-yl)-phenylamine (1.42 g, 100%) that was used immediately.

reactant | 1-(2-Methoxy-4-nitro-phenyl)-4-triisopropylsilanyloxy-piperidine | 3.74 mmol, 1.53 g | COC1=C(C=CC(=C1)[N+](=O)[O-])N1CCC(CC1)O[Si](C(C)C)(C(C)C)C(C)C | C21H36N2O4Si
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 3-methoxy-4-(4-triisopropylsilanyloxy-piperidin-1-yl)-phenylamine | 1.42 g, 100% | COC=1C=C(C=CC1N1CCC(CC1)O[Si](C(C)C)(C(C)C)C(C)C)N | C21H38N2O2Si
